US07662832B2
2-ethyl-3-methyl-7-(1,2,3,4-tetrahydroisoquinolin-2-yl)-1H-pyrrolo[2,3-c]pyridine
1,2,3,4-Tetrahydroisoquinoline (1 ml) was added to 7-chloro-2-ethyl-3-methyl-1H-pyrrolo[2,3-c]pyridine (850 mg, 4.37 mmol) prepared in Preparation 28. The reaction mixture was stirred overnight at 140° C., cooled to room temperature, and then purified with silica gel column chromatography to give 660 mg of the titled compound as a pale yellow solid.

reactant | 1,2,3,4-Tetrahydroisoquinoline | 1 ml | C1NCCC2=CC=CC=C12 | C9H11N
reactant | 7-chloro-2-ethyl-3-methyl-1H-pyrrolo[2,3-c]pyridine | 4.37 mmol, 850 mg | ClC=1N=CC=C2C1NC(=C2C)CC | C10H11ClN2
product | 2-ethyl-3-methyl-7-(1,2,3,4-tetrahydroisoquinolin-2-yl)-1H-pyrrolo[2,3-c]pyridine | 660 mg | C(C)C1=C(C=2C(=C(N=CC2)N2CC3=CC=CC=C3CC2)N1)C | C19H21N3
